US09446034B2
1b) 2-[5-Chloro-2-(2-methyl-5-phenyl-2H-pyrazol-3-ylamino)-pyridin-4-ylamino]-N-methyl-benzamide
A 50-mL sealed tube was charged with Pd(OAc)2 (18 mg, 0.08 mmol) and 2,2′-bis (diphenylphosphino)-1,1′-binaphthyl (BINAP, 50 mg, 0.08 mmol) in 1,4-dioxane (10 mL). The mixture was degassed using bubbling nitrogen for 40 min and heated at 50° C. for 1 h. Then the mixture was cooled to room temperature whereupon 2-[(2,5-dichloro-4-pyridinyl)amino]-N-methyl-benzamide (300 mg, 1.01 mmol), 2-methyl-5-phenyl-2H-pyrazol-3-ylamine (704 mg, 4.06 mmol) and cesium carbonate (960 mg, 2.96 mmol) were added under an inert atmosphere. The tube was sealed and heated at 120° C. overnight. The reaction mixture was concentrated under reduced pressure and the crude product was purified by column chromatography (silica gel, eluted with dichloromethane-methanol (DCM-MeOH) 99:1 followed by purification by preparatory TLC to afford the desired compound as a off white solid (25 mg, 5%). 1H NMR (400 MHz, DMSO-d6) δ 2.76 (d, 3H, J=4.52 Hz), 3.68 (s, 3H), 6.69 (s, 1H), 6.85 (s, 1H), 7.07-7.14 (m, 1H), 7.25-7.31 (m, 1H), 7.36-7.42 (m, 2H), 7.46-7.53 (m, 1H), 7.63 (d, 1H, J=8.08 Hz), 7.69 (d, 1H, J=7.4 Hz), 7.75 (d, 2H, J=7.16 Hz), 8.04 (s, 1H), 8.69 (brs, 1H), 8.81 (s, 1H), 10.13 (s, 1H). LC-MS calculated for C23H21ClN6O (M+H) 433.15, found 433.3. HPLC purity 96% at λ=200 nm and 99% at λ=260 nm.

reactant | 2,2′-bis (diphenylphosphino)-1,1′-binaphthyl | 0.08 mmol, 50 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 2-[(2,5-dichloro-4-pyridinyl)amino]-N-methyl-benzamide | 1.01 mmol, 300 mg | ClC1=NC=C(C(=C1)NC1=C(C(=O)NC)C=CC=C1)Cl | C13H11Cl2N3O
reactant | 2-methyl-5-phenyl-2H-pyrazol-3-ylamine | 4.06 mmol, 704 mg | CN1N=C(C=C1N)C1=CC=CC=C1 | C10H11N3
reactant | cesium carbonate | 2.96 mmol, 960 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.08 mmol, 18 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-[5-Chloro-2-(2-methyl-5-phenyl-2H-pyrazol-3-ylamino)-pyridin-4-ylamino]-N-methyl-benzamide | ClC=1C(=CC(=NC1)NC=1N(N=C(C1)C1=CC=CC=C1)C)NC1=C(C(=O)NC)C=CC=C1 | C23H21ClN6O
